US04061663
1,3-Bis-O-sulfamyl-1,3-propanediol is prepared in the same manner as 1,2-bis-O-sulfamyl-1,2-ethanediol in Example 1 except that 1,3-propanediol (29.2 g., 0.385 mol.) is employed as the alkanediol.

reactant | 1,2-bis-O-sulfamyl-1,2-ethanediol | S(N)(=O)(=O)OCCOS(N)(=O)=O | C2H8N2O6S2
reactant | 1,3-propanediol | 0.385 mol, 29.2 g | C(CCO)O | C3H8O2
product | 1,3-Bis-O-sulfamyl-1,3-propanediol | S(N)(=O)(=O)OCCCOS(N)(=O)=O | C3H10N2O6S2
